Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:10]([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9](=[C:10]([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-8.26755639
[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10].[H:6],2.1426862783500003
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7][H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7])[O:9][H:10],5.99148957649
[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],5.3322738567500005
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[H:8].[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.5950415758800007
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13],6.356563304169999
[H:1][C:2][O:3][C:4][C:5]#[C:6][O:7][H:8]>>[C:4]#[C:5][C:6][O:7][H:8].[H:1][C:2]=[O:3],0.1652883393799999
[O:1]=[C:2][C:7]([C:6][O:5][C:3][H:4])([H:8])[H:9]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6][C:7]1([H:8])[H:9],-4.36177955991
[H:1][C:2][C:3]1=[C:4]([O:5][H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][C:2]#[C:3][C:8]([O:7][C:4][O:5][H:6])([H:9])[H:10],-0.435879845241
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],4.002363408469998
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:5]#[C:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][C:2]([H:3])=[O:4],1.79426708995
[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-2.67487218905
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:9][H:10],4.22033273625
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([H:5])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.42167328163
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2].[O:3][C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],3.1198733044200004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9],4.69414645264
[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-4.96885750261
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.09429856911
[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])=[C:10]([H:11])[H:12],1.96310210528
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:4],3.9053303740900014
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])[H:4]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])([H:15])[H:16],-3.74029740847
[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.94946097548
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],2.97280625748
[C:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C@:5]([H:6])([O:7][O:8][H:9])[C:10]([H:11])([H:12])[H:13],3.88048803266
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])([H:4])[C@@:5]1([H:6])[C:7]([H:8])([H:9])[C:10][O:11][C:12]1([H:13])[H:14],-3.69556465673
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][C:2]([H:3])/[C:4](=[C:5](/[H:6])[C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.00659658385
[O:1]=[C:2]([H:3])/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]#[C:5][O:6][H:7],1.96996633121
[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2]#[C:3][H:4].[H:5],1.97046513178
